US05334748
A mixture of 2-bromobenzaldehyde (100 g; 0.54 mol), ethylene glycol (67.03 g; 1.08 mol), p-toluenesulphonic acid (0.5 g) and toluene was heated to and maintained at reflux temperature for 6 hours. During this period, water/ethylene glycol (23 ml) was removed by azeotropic distillation. The mixture was cooled and ether (1 l) was added. The ether solution was washed with saturated sodium bicarbonate solution (200 ml) water (3×150 ml) and saturated brine (1×150 ml) After drying and filtration, evaporation of the ether solution gave 2-(2-bromophenyl)-1,3-dioxolane (121.96 g, 98.6% yield) as an oil.

reactant | 2-bromobenzaldehyde | 0.54 mol, 100 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | ethylene glycol | 1.08 mol, 67.03 g | C(CO)O | C2H6O2
catalyst | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromophenyl)-1,3-dioxolane | 121.96 g, 98.6% yield | BrC1=C(C=CC=C1)C1OCCO1 | C9H9BrO2
